US04120856
3-Fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one
A well stirred suspension of 10 g (0.03 mol) of 3-hydroxy-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one and 500 ml of methylene chloride was cooled to -70°. Diethylaminosulfur trifluoride (25 ml, 0.2 mol) was then added dropwise with exclusion of moisture and air. On completion of the addition the dry-ice acetone bath was removed, the contents of the flask were allowed to warm up in about 25 minutes to -10° and the reaction then immediately quenched by pouring into a beaker containing 400-500 ml of ice water. (If the reaction mixture is allowed to warm to 25°, none of the desired product is obtained.) Vigorous stirring of the ice water mixture continued for 7 to 10 minutes. The organic layer was separated, dried over MgSO4 and evaporated under reduced pressure to give a light orange powder. The product was dissolved in hot benzene, treated with decolorizing charcoal and filtered hot. On addition of heptane to the benzene solution, followed by cooling in ice, 3-fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one crystallized out as a white powder, 8.19 g (82%): mp 190°-192° (decom.); 19F nmr (DMSO-d6) δ -161.5 ppm (d, d, J = 56, 4 Hz, 1H), 1H nmr (DMSO-d6) δ 7.2-7.8 (m, 8H), δ 5.72 (d, J = 56 Hz, 1H), δ 11.0 ppm (N-H).

reactant | 3-hydroxy-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.03 mol, 10 g | OC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H11ClN2O2
reactant | Diethylaminosulfur trifluoride | 0.2 mol, 25 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
